US06183669B2
A slurry obtained by mixing 37.7 g of a borosilicate glass powder, 24.9 g of alumina powder, 6.2 g of an acrylic organic binder containing hydroxyl groups, 3.1 g of ethanol, 3.0 g of trimethylolpropane triacrylate, 1.2 g of 2-methyl-1-[4-(methylthio)phenyl]2-morphorinopropane-1-on, 0.3 g of 2,4-diethylthioxanthone and 0.5 g of dipropyleneglycol monomethyl ether was formed into a sheet by the doctor blade method. The sheet was dried at 100° C. to obtain a photosensitive insulating ceramic green sheet with a thickness of 30 μm.

reactant | trimethylolpropane triacrylate | 3.0 g | C(C=C)(=O)O.C(C=C)(=O)O.C(C=C)(=O)O.C(O)C(CC)(CO)CO
reactant | 2,4-diethylthioxanthone | 0.3 g | C(C)C1=CC=2C(C3=CC=CC=C3SC2C(=C1)CC)=O | C17H16OS
solvent | ethanol | 3.1 g | C(C)O | C2H6O
product | dipropyleneglycol monomethyl ether | 0.5 g | COC(C)COC(C)CO | C7H16O3
